US07157487B2
In DMF (65 ml) was dissolved 5-chloroindole (5.00 g, 33.0 mmol), followed by the addition of sodium hydride (60% in oil, 1.45 g, 36.3 mmol) in portions under stirring at 0° C. After the reaction mixture was stirred further for 30 minutes at the same temperature, methyl iodide (2.46 ml, 39.6 mmol) was added. The resulting mixture was stirred at 0° C. for 30 minutes. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (3:1, v/v) eluate fractions, 5-chloro-1-methylindole (5.89 g, 100%) was obtained as a yellow oil.

reactant | 5-chloroindole | 33.0 mmol, 5.00 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | sodium hydride | 36.3 mmol, 1.45 g | [H-].[Na+]
reactant | methyl iodide | 39.6 mmol, 2.46 ml | CI | CH3I
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-methylindole | 5.89 g, 100% | ClC=1C=C2C=CN(C2=CC1)C | C9H8ClN
